* source FLYBACK_E7BAC
X_D1    N31513 OUT Flyback_Linear_D1 
Kn_K1         L_Lp L_Ls     1
L_Ls         0 N31513  {Ns**2*Al}  
R_Rload         0 OUT  {Rl} TC=0,0 
V_Vduty         N31709 0  
+PULSE 0V 1V 0 1ns 1ns {d*T} {T}
V_Vd         D 0 {d}
L_Lp         IN S  {Np**2*Al}  
C_Co         0 OUT  10uF  TC=0,0 
X_S1    N31709 0 S 0 Flyback_Linear_S1 
V_Vi         IN 0 {Vi}
.PARAM  vi=26v vo=21v d_dcm={(np/(ns*vi))*((2*po*al*fs)**(1/2))} po=
+ {(vo**2)/rl} al=57.76u rl=8.4r d={vo/(vi*ns/np+vo)} ns=1 t=10us np=1 fs={1/t}

.subckt Flyback_Linear_D1 1 2  
S_D1         1 2 1 2 _D1
RS_D1         1 2 1G
.MODEL         _D1 VSWITCH Roff=1G Ron=1m Voff=0 Von=1m
.ends Flyback_Linear_D1

.subckt Flyback_Linear_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1G Ron=1.0m Voff=0.0V Von=1.0V
.ends Flyback_Linear_S1
